US07897597B2
mCPBA (60% pure, 1.45 g,) was added to a solution of N-[2-(8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide (2.37 g, 4.91 mmol) in chloroform (100 mL). The reaction was stirred for 2 hours and quenched by adding 50 mL of aqueous 2% sodium carbonate. The layers were separated and the aqueous fraction was extracted with two portions of chloroform. The combined organic fractions were washed with brine, dried over sodium sulfate, filtered, and concentrated to give 2.29 g of crude N-[2-(8-benzyloxy-2-ethoxymethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide as an orange foam.

reactant | mCPBA | 1.45 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | N-[2-(8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide | 4.91 mmol, 2.37 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=C(N3CC(C)(C)NS(=O)(=O)C)COCC | C25H30N4O4S
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[2-(8-benzyloxy-2-ethoxymethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide | 2.29 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=[N+](C2C=C1)[O-])N=C(N3CC(C)(C)NS(=O)(=O)C)COCC | C25H30N4O5S
